US09102623B2
A9.3) 6-(Difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid
7.4 g (36.4 mmol) of methyl 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate were dissolved in 100 ml of methanol, and a solution of 1.3 g (54.6 mmol) of lithium hydroxide in 50 ml of water was added. After two hours of heating under reflux, the mixture was concentrated to a volume of about 50 ml and the solution was washed with dichloromethane. The aqueous phase was then acidified with 2N hydrochloric acid and extracted with ethyl acetate. Drying and concentration of the extract gave 5.6 g (82% of theory) of a brownish powder.

reactant | methyl 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 36.4 mmol, 7.4 g | FC(C1=CC=C(C(N1)=O)C(=O)OC)F | C8H7F2NO3
reactant | lithium hydroxide | 54.6 mmol, 1.3 g | [OH-].[Li+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 6-(Difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | FC(C1=CC=C(C(N1)=O)C(=O)O)F | C7H5F2NO3
